US04762840
Using a method similar to that used in the preparation of 1-methylcyclohexyl α-methyl-2-oxo-4-phenyl-2H-pyrimido[2,1-b]benzothiazole-8-acetate, 8.9 g of 1-adamantyl 2-amino-α-methylbenzothiazole-6-acetate were reacted with heating at 160° C. for 1 hour to obtain 4.73 g (39% yield) of 1-adamantyl α-methyl-2-oxo-4-phenyl-2H-pyrimido[2,1-b]benzothiazole-8-acetate as a yellow solid after crystallization from ethyl acetate/petroleum ether melting at 188°-190° C.

reactant | 1-methylcyclohexyl α-methyl-2-oxo-4-phenyl-2H-pyrimido[2,1-b]benzothiazole-8-acetate | CC(C(=O)OC1(CCCCC1)C)C1=CC2=C(N3C(S2)=NC(C=C3C3=CC=CC=C3)=O)C=C1 | C26H26N2O3S
reactant | 1-adamantyl 2-amino-α-methylbenzothiazole-6-acetate | 8.9 g | NC=1SC2=C(N1)C=CC(=C2)C(C(=O)OC21CC3CC(CC(C2)C3)C1)C | C20H24N2O2S
product | 1-adamantyl α-methyl-2-oxo-4-phenyl-2H-pyrimido[2,1-b]benzothiazole-8-acetate | 4.73 g, 39% yield | CC(C(=O)OC12CC3CC(CC(C1)C3)C2)C2=CC3=C(N1C(S3)=NC(C=C1C1=CC=CC=C1)=O)C=C2 | C29H28N2O3S
